US09382222B2
To a solution of tert-butyl-4-hydroxy-1-piperidinecarboxylate (137 mg, 681 mmol) in anhydrous THF (5 mL) was added NaH (60% dispersion in mineral oil, 30 mg, 743 mmol) and the reaction was stirred at room temperature for 15 minutes. N-Cyclobutyl-4-fluoro-N-(3-fluoro-phenyl)-benzenesulfonamide (200 mg, 619 μmol) was added and the reaction was heated at 90° C. for 4 hours. The reaction was left to cool to room temperature, water added and extracted with EtOAc, washed with brine, dried with Na2SO4 then concentrated and purified by silica gel column chromatography (0-50% EtOAc in cyclohexane) to give 4-{4-[cyclobutyl-(3-fluoro-phenyl)-sulfamoyl]-phenoxy}-piperidine-1-carboxylic acid tert-butyl ester (330 mg). LCMS (m/z, Method A) ES+ 527 [M+23]+.

reactant | tert-butyl-4-hydroxy-1-piperidinecarboxylate | 681 mmol, 137 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | NaH | 743 mmol, 30 mg | [H-].[Na+]
reactant | N-Cyclobutyl-4-fluoro-N-(3-fluoro-phenyl)-benzenesulfonamide | 619 μmol, 200 mg | C1(CCC1)N(S(=O)(=O)C1=CC=C(C=C1)F)C1=CC(=CC=C1)F | C16H15F2NO2S
reactant | water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-{4-[cyclobutyl-(3-fluoro-phenyl)-sulfamoyl]-phenoxy}-piperidine-1-carboxylic acid tert-butyl ester | 330 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)S(N(C1=CC(=CC=C1)F)C1CCC1)(=O)=O | C26H33FN2O5S
